US05989535
Bioadhesive Sustained Release Timolol Maleate Eye Drops
15 grams of Carbopol 974P is dispersed in 40 grams of heavy mineral oil USP and is added to 841.5 grams of water containing 2.5 grams of timolol meleate with vigorous stirring. 100 grams of water containing 1.0 gram of zinc acetate is added in a controlled fashion with homogenization to get a particle size distribution size below 5 micron.

reactant | Carbopol 974P | 15 grams | CCC(C)C(=O)O | C5H10O2
reactant | timolol | CC(C)(C)NC[C@@H](COC=1C(=NSN1)N2CCOCC2)O | C13H24N4O3S
reactant | water | 100 grams | O | H2O
reactant | water | 841.5 grams | O | H2O
catalyst | zinc acetate | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | Timolol Maleate | CC(C)(C)NC[C@@H](COC=1C(=NSN1)N2CCOCC2)O.C(=C\C(=O)O)\C(=O)O | InChI=1S/C13H24N4O3S.C4H4O4/c1-13(2,3)14-8-10(18)9-20-12-11(15-21-16-12)17-4-6-19-7-5-17;5-3(6)1-2-4(7)8/h10,14,18H,4-9H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-/t10-;/m0./s1
